US06780956B2
BPA-Eugenol Siloxane Bisphenol (p=9) Copolycarbonate (“Random” Architecture)
A 500 mL Morton flask was charged with BPA (22.8 g, 100 mmol), p-cumylphenol (1.06 g, 5.0 mmol), methylene chloride (125 mL), distilled water (90 mL) and MTBAC (0.5 g of a 75 wt % solution in water). The pH was adjusted to about 10.5 with a solution of 50 percent by weight NaOH in water. Phosgene (7.8 g, 78 mmol) was added at 0.6 g/min maintaining the pH at about 10.5 by the addition of a solution of 50 percent by weight NaOH in water. The pH was allowed to drop to about 8.0 and additional phosgene (3.3 g) was added at 0.6 g/min while maintaining the pH at about 8.0. Eugenol siloxane bisphenol (p=9) (3.2 g, 3 mmol) was added and pH was raised to between about 9 and about 10. The reaction was stirred for 10 min. Triethylamine (125 microliters) was added and the reaction was stirred until no chloroformates were detected. Methylene chloride (25 mL) was added and the polymer solution was separated from the brine and washed once with 1N HCl and four times with distilled water. The polymer solution was precipitated into boiling water (750 mL) at high shear in a blender, washed with water (500 mL) and dried overnight at 110° C. under vacuum. The polymer, analyzed by 1H-NMR, showed complete incorporation of the eugenol siloxane bisphenol, had a Tg 122° C. and a weight average molecular weight (Mw) of 39,900. A film cast from this material was transparent. The product copolycarbonate was shown by 1H-NMR to have a random structure.

reactant | BPA | 100 mmol, 22.8 g | CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O | C15H16O2
reactant | p-cumylphenol | 5.0 mmol, 1.06 g | C(C)(C)(C1=CC=CC=C1)C1=CC=C(C=C1)O | C15H16O
reactant | Phosgene | 78 mmol, 7.8 g | C(=O)(Cl)Cl | CCl2O
reactant | NaOH | [OH-].[Na+]
reactant | phosgene | 3.3 g | C(=O)(Cl)Cl | CCl2O
reactant | Eugenol siloxane bisphenol | 3 mmol, 3.2 g | [SiH2](OC1=C(C=CC=C1)O)C1=C(C=CC=C1)O.C=1(C(O)=CC=C(CC=C)C1)OC
solvent | water | O | H2O
solvent | Methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | Triethylamine | 125 microliters | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
product | BPA Eugenol Siloxane Bisphenol | CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O.[SiH2](OC1=C(C=CC=C1)O)C1=C(C=CC=C1)O.C=1(C(O)=CC=C(CC=C)C1)OC | InChI=1S/C15H16O2.C12H12O3Si.C10H12O2/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;13-9-5-1-3-7-11(9)15-16-12-8-4-2-6-10(12)14;1-3-4-8-5-6-9(11)10(7-8)12-2/h3-10,16-17H,1-2H3;1-8,13-14H,16H2;3,5-7,11H,1,4H2,2H3
